US06211234B1
A solution of methyl (E)-3-(2,4-dibenzyloxyphenyl)-2-cyanoacrylate (400 mg) in tetrahydrofuran (20 mL) containing 0.5 N aqueous lithium hydroxide solution (4 mL) is stirred at ambient temperature for 2 hours. The reaction is concentrated under reduced pressure and the residue taken up in water. This solution is acidified to pH 1 and extracted with diethyl ether. The organic layer is dried over magnesium sulphate, filtered and concentrated under reduced pressure to leave (E)-3-(2,4-dibenzyloxyphenyl)-2-cyanoacrylic acid hydrate as a yellow solid (30 mg). [Elemental analysis:- C, 71.43; H, 5.25; N, 3.47%; Calculated for C24H19NO4.H2O:- C, 71.40; H, 4.81; N, 3.72%].

reactant | methyl (E)-3-(2,4-dibenzyloxyphenyl)-2-cyanoacrylate | 400 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)/C=C(/C(=O)OC)\C#N | C25H21NO4
reactant | lithium hydroxide | 0.5 N, 4 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (E)-3-(2,4-dibenzyloxyphenyl)-2-cyanoacrylic acid hydrate | 30 mg | O.C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)/C=C(/C(=O)O)\C#N | InChI=1S/C24H19NO4.H2O/c25-15-21(24(26)27)13-20-11-12-22(28-16-18-7-3-1-4-8-18)14-23(20)29-17-19-9-5-2-6-10-19;/h1-14H,16-17H2,(H,26,27);1H2/b21-13+;
